US05958944
Methyl (R)-4-(1-acetamidoethyl)-3-fluorobenzoate (690 mg) was added to 2N hydrochloric acid (15 ml), and the mixture was refluxed for 3 hours. After the reaction, the reaction mixture was evaporated under reduced pressure, further boiled with toluene, and dried to give (R)-4-(1-aminoethyl)-3-fluorobenzoic acid hydrochloride (620 mg).

reactant | Methyl (R)-4-(1-acetamidoethyl)-3-fluorobenzoate | 690 mg | C(C)(=O)N[C@H](C)C1=C(C=C(C(=O)OC)C=C1)F | C12H14FNO3
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
product | (R)-4-(1-aminoethyl)-3-fluorobenzoic acid hydrochloride | 620 mg | Cl.N[C@H](C)C1=C(C=C(C(=O)O)C=C1)F | InChI=1S/C9H10FNO2.ClH/c1-5(11)7-3-2-6(9(12)13)4-8(7)10;/h2-5H,11H2,1H3,(H,12,13);1H/t5-;/m1./s1
